US05457099
Preparation of 1-[3-[4-(1H-indol-3-yl)-1-piperidinyl]propyl]-4-methyl-2-(1H)-quinolinone (VII-4)
A suspension of 1-(3-chloropropyl)-4-methyl-2(1H)-quinolinone (VI-4) (455 mg, 1.93 mmol), 3-(4-piperidinyl)-1H-indole (350 mg, 1.75 mmol) and sodium hydrogencarbonate (220 mg, 2.63 mmol) in dry dimethylformamide 6 ml was allowed to react at 90 ° C. for 15 hours. Ice-water was poured into the reaction mixture and then the separated solid was filtered off by aspiration. The solid was dissolved in chloroform, then dried and the solvent was distilled off under the reduced pressure. The residue was dissolved in developing solvent (chloroform: methanol=9:1) and purified by silica gel column chromatography. After removing the first eluted impurity, a colorless solution was collected and the solvent was distilled off to give the desired product (VII-4) (450 mg) as a pale yellow solid (yield 64.4%, mp 74°-77 ° C.).

reactant | 1-(3-chloropropyl)-4-methyl-2(1H)-quinolinone | 1.93 mmol, 455 mg | ClCCCN1C(C=C(C2=CC=CC=C12)C)=O | C13H14ClNO
reactant | 3-(4-piperidinyl)-1H-indole | 1.75 mmol, 350 mg | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | sodium hydrogencarbonate | 2.63 mmol, 220 mg | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 1-[3-[4-(1H-indol-3-yl)-1-piperidinyl]propyl]-4-methyl-2-(1H)-quinolinone | 450 mg, yield 64.4% | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCCN1C(C=C(C2=CC=CC=C12)C)=O | C26H29N3O
